US08183231B2
{(R)-3-[(S)-2-Amino-3-(4-hydroxy-phenyl)-propionylamino]-2-hydroxy-propyl}-cyclohexylmethyl-phosphinic acid
The title compound was prepared substantially following the procedures as set forth in Step 4, Example 1, Method A, and employing ((R)-3-Amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride and N-Cbz-L-tyrosine-OH as the starting materials. Subsequent hydrogenation of the resulting product in accordance with the procedures of Step 5, Example 1, Method B, and RP-HPLC purification yielded the title compound. 1H NMR (CD3OD, 300 MHz): δ 7.11 (d, 2H), 6.78 (d, 2H), 4.14-3.86 (m, 2H), 3.40 (dd, 1H), 3.22-3.03 (m, 2H), 3.01-2.88 (m, 1H), 1.94 (br.d, 2H), 1.86-1.58 (m, 6H), 1.51 (dd, 2H), 1.40-1.13 (m, 3H), 1.11-0.93 (m, 2H). 31P NMR (CD3OD, 300 MHz): δ 40.19. LCMS m/z: [M+H]+=399.3.

reactant | ((R)-3-Amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
reactant | N-Cbz-L-tyrosine-OH | C1=CC=C(C=C1)COC(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)O | C17H17NO5
product | {(R)-3-[(S)-2-Amino-3-(4-hydroxy-phenyl)-propionylamino]-2-hydroxy-propyl}-cyclohexylmethyl-phosphinic acid | N[C@H](C(=O)NC[C@H](CP(O)(=O)CC1CCCCC1)O)CC1=CC=C(C=C1)O | C19H31N2O5P
